US07495103B2
To a suspension of NaH (60% in mineral oil, 6.99 g, 174.7 mmol) in THF (350 mL) was added dropwise a solution of 2,4-di-tert-butylphenol (35 g, 169.6 mmol) in THF (150 mL) at 0° C. The mixture was stirred at 0° C. for 15 min and then phosphorochloridic acid diethyl ester (30.15 g, 174.7 mmol) was added dropwise at 0° C. After addition, the mixture was stirred at this temperature for 15 min. The reaction was quenched with sat. NH4Cl (300 mL). The organic layer was separated and the aqueous phase was extracted with Et2O (350 mL×2). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum to give crude phosphoric acid 2,4-di-tert-butyl-phenyl ester diethyl ester as a yellow oil (51 g, contaminated with some mineral oil), which was used directly in the next step.

reactant | NaH | 174.7 mmol, 6.99 g | [H-].[Na+]
reactant | 2,4-di-tert-butylphenol | 169.6 mmol, 35 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | phosphorochloridic acid diethyl ester | 174.7 mmol, 30.15 g | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | phosphoric acid 2,4-di-tert-butyl-phenyl ester diethyl ester | C(C)OP(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)(OCC)=O | C18H31O4P
